US07365069B2
N-(4-Ethylphenyl)-4-(methylthio)benzenecarboximidamide
The title compound was prepared from 4-methylthiobenzonitrile (1.23 g, 8.2 mmol) and 4-ethylaniline (1 g, 8.2 mmol) by following the procedure described in preparation 10 (1.81 g, yield 81.1%, mp 156-158° C., purity 98.6% by HPLC). 1H-NMR (CDCl3): δ 1.22-1.26 (t, 3H), 2.51 (s, 3H), 2.60-2.66 (q, 2H), 4.70 (bs, 2H, D2O exchangeable), 6.89-6.91 (d, 2H), 7.17-7.19 (d, 2H), 7.26-7.29 (m, 2H), 7.79-7.81 (d, 2H). MS m/z:271.3 (M+).

reactant | 4-methylthiobenzonitrile | 8.2 mmol, 1.23 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | 4-ethylaniline | 8.2 mmol, 1 g | C(C)C1=CC=C(N)C=C1 | C8H11N
product | N-(4-Ethylphenyl)-4-(methylthio)benzenecarboximidamide | yield 81.1% | C(C)C1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)SC | C16H18N2S
